US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(3-methylbenzo[b]thiophen-6-yl)imidazolidin-2-one (18A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 100 mg, 0.492 mmol) was reacted with 6-bromo-3-methylbenzo[b]thiophene (112 mg, 0.492 mmol), 1,4-dioxane (5 mL), copper iodide (9.3 mg, 0.049 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (7.0 mg, 0.049 mmol) and potassium phosphate (313.6 mg, 1.447 mmol) to afford the crude product. Purification by column chromatography on silica gel (2.0% methanol in CHCl3) afforded 45 mg of the product (26% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.492 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 6-bromo-3-methylbenzo[b]thiophene | 0.492 mmol, 112 mg | BrC=1C=CC2=C(SC=C2C)C1 | C9H7BrS
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.049 mmol, 7.0 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.447 mmol, 313.6 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.049 mmol, 9.3 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(3-methylbenzo[b]thiophen-6-yl)imidazolidin-2-one | 45 mg, 26% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C=1C=CC2=C(SC=C2C)C1)=O | C20H19N3OS
